US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(4-morpholinylcarbonyl)-3-quinolinecarboxamide
To a pressure tube containing N-[(4-chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide of Example No. 5 (0.23 g), palladium (II) acetate (12 mg), and 1,3-bis(diphenylphosphino)propane (20 mg) is added DMF (5 mL), triethylamine (0.14 mL) and morpholine (0.13 mL). The reaction mixture is placed under an atmosphere of carbon monoxide gas, then tightly sealed and heated at 60° C. overnight. The reaction is cooled to room temperature and concentrated under reduced pressure. The residue is partioned between dichloromethane and aqueous phosphate buffer (0.1M, pH=4). The organic phase is washed with aqueous phosphate buffer (0.1M, pH=10), brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue is chromatographed on silica eluting with 2% MeOH:CH2Cl2 to 8% MeOH:CH2Cl2. The product-containing fractions are evaporated to give 0.13 g of the title compound as a tan solid.

reactant | N-[(4-chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)I)F | C17H11ClFIN2O2
reactant | 1,3-bis(diphenylphosphino)propane | 20 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | morpholine | 0.13 mL | N1CCOCC1 | C4H9NO
catalyst | palladium (II) acetate | 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(4-morpholinylcarbonyl)-3-quinolinecarboxamide | 0.13 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C(=O)N2CCOCC2)F)C=C1 | C22H19ClFN3O4
